### PR TITLE
feat(Order/Nucleus): Helper lemmas for using the supremum of Nuclei

### PR DESCRIPTION
**Pull request by Bergschaf**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Nucleus.lean [hunk 1]
```diff
@@ -126,19 +126,26 @@ instance : InfSet (Nucleus X) where
...
-@[simp] theorem inf_apply (m n : Nucleus X) (x : X) : (m ⊓ n) x = m x ⊓ n x := by
-  rw [← sInf_pair, sInf_apply, iInf_pair]
+@[simp] theorem inf_apply : (m ⊓ n) x = m x ⊓ n x := by rw [← sInf_pair, sInf_apply, iInf_pair]
+
+@[simp] theorem sSup_apply : sSup s x = ⨅ j ∈ upperBounds s, j x := rfl
+
+@[simp] theorem iSup_apply : iSup f x = ⨅ j ∈ upperBounds (Set.range f), j x := rfl
+
+@[simp] theorem sup_apply : (m ⊔ n) x = ⨅ j ∈ upperBounds {m, n}, j x := by
+  rw [← sSup_pair, sSup_apply]
```
Comment (YaelDillies) [inline Mathlib/Order/Nucleus.lean:148]: Do you really consider the RHS simpler than the LHS?

Comment (Bergschaf) [reply Mathlib/Order/Nucleus.lean:148]: Ok, i see, but when we remove simp, it is the same as sSup_lowerBounds_eq_sInf combined with sInf_apply. What do you think, should we abandon this?

Comment (YaelDillies) [reply Mathlib/Order/Nucleus.lean:148]: I think so, yeah. It doesn't seem particularly useful as a `Nucleus` lemma
